US07420055B2
Synthesis of 3-Methyl-3-phenyl-butan-2-one
To 2.1 g (10.1 mmol) of N-Methoxy-N-methyl-2-phenyl-isobutyramide in 80 ml of dry tetrahydrofuran at ambient temperature was added 6.7 ml (20.2 mmol) of 3M methymagnesium bromide in heptane, and the solution was warmed to 60° C. After 6 hours, the mixture was allowed to cool to ambient temperature and was quenched with 1M HCl. The resulting mixture was partitioned between water and ether, and the phases were separated. The ether phase was washed once each with 1M HCl and brine, dried over Na2SO4, filtered, and concentrated in vacuo to an oil. The oil was chromatographed to give the title compound as a clear oil: 1H NMR CDCl3 δ (ppm): 1.49 (s, 6H), 1.93 (s, 3H), 7.24-7.34 (m, 5H).

reactant | N-Methoxy-N-methyl-2-phenyl-isobutyramide | 10.1 mmol, 2.1 g | CON(C(C(C)(C)C1=CC=CC=C1)=O)C | C12H17NO2
reactant | methymagnesium bromide | 20.2 mmol, 3M, 6.7 ml | C[Mg]Br
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | 3-Methyl-3-phenyl-butan-2-one | CC(C(C)=O)(C)C1=CC=CC=C1 | C11H14O
